US07151097B2
Preparation of 4-Acetoxy-1-(2-chlorophenyl)-5-(4-chlorophenyl)-1H-pyrazole-3-carboxylic acid (I-6d)
1-(2-Chlorophenyl)-5-(4-chlorophenyl)-4-hydroxy-1H-pyrazole-3-carboxylic acid I-6c (572.0 g, 1.64 mol) was combined with 8 liters of methylene chloride to give an off-white suspension. N,N-Diisopropylethylamine (427.9 g, 3.29 mol) was added over 15 minutes while keeping the temperature between 20–25° C. A clear yellow solution resulted. Acetic anhydride (334.5 g, 3.24 mol) was added over 5 minutes keeping the temperature between 20–25° C. The reaction was stirred at room temperature for 16 hours. The crude reaction solution was washed twice with 4 liters portions of 0.5 M citric acid and once with 4 liters of brine. The crude solution was concentrated in vacuo to a total volume of 1 liter. This milky suspension was then added to 4 liters of hexanes causing the desired product to precipitate instantly. The solids were granulated for 30 minutes and then collected by filtration. The filtercake was rinsed with 3 liters of hexanes and then air-dried for 16 hours. The isolated product was then further dried at 60° C. and 8 mm for 2 hours. 4-Acetoxy-1-(2-chlorophenyl)-5-(4-chlorophenyl)-1H-pyrazole-3-carboxylic acid I-6d (601.6 g, 94%) was isolated as a powdery, off-white solid.

reactant | 1-(2-Chlorophenyl)-5-(4-chlorophenyl)-4-hydroxy-1H-pyrazole-3-carboxylic acid | 1.64 mol, 572.0 g | ClC1=C(C=CC=C1)N1N=C(C(=C1C1=CC=C(C=C1)Cl)O)C(=O)O | C16H10Cl2N2O3
reactant | N,N-Diisopropylethylamine | 3.29 mol, 427.9 g | C(C)(C)N(C(C)C)CC | C8H19N
reactant | Acetic anhydride | 3.24 mol, 334.5 g | C(C)(=O)OC(C)=O | C4H6O3
solvent | methylene chloride | 8 liters | C(Cl)Cl | CH2Cl2
product | 4-Acetoxy-1-(2-chlorophenyl)-5-(4-chlorophenyl)-1H-pyrazole-3-carboxylic acid | C(C)(=O)OC=1C(=NN(C1C1=CC=C(C=C1)Cl)C1=C(C=CC=C1)Cl)C(=O)O | C18H12Cl2N2O4
